US04610820
Preparation of (3S,4R)-1-(t-Butyldimethylsilyl)-3-(1-oxoethyl)-4-[2,2,2-tri(methylthio)ethyl]azetidin-2-one
Trifluoroacetic anhydride (400 mg., 1.905 mmol) is added by syringe to a solution of dimethyl sulfoxide (2.53 mmol) in dry methylene chloride (5 ml) at -78° C. The resulting mixture is stirred at -78° C. for 30 minutes prior to the addition of a solution of (3RS,4R)-1-(t-butyldimethylsilyl)-3-[(RS)-1-hydroxyethyl]-4-[2,2,2-tri(methylthio)ethyl]azetidin-2-one (500 mg., 1.27 mmol) in dry CH2 cl2 (1 ml). The resulting solution is stirred for 30 minutes prior to the addition of triethylamine (360 mg., 3.56 mmol). The cooling bath is removed. After 40 minutes, the reaction mixture is diluted with CH2Cl2, washed with water and brine and dried over magnesium sulfate. Removal of solvents in vacuo gives an oil which is purified as above. Yields 432 mg. (86%).

reactant | Trifluoroacetic anhydride | 1.905 mmol, 400 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | dimethyl sulfoxide | 2.53 mmol | CS(=O)C | C2H6OS
reactant | (3RS,4R)-1-(t-butyldimethylsilyl)-3-[(RS)-1-hydroxyethyl]-4-[2,2,2-tri(methylthio)ethyl]azetidin-2-one | 1.27 mmol, 500 mg | [Si](C)(C)(C(C)(C)C)N1C(C([C@H]1CC(SC)(SC)SC)C(C)O)=O | C16H33NO2S3Si
reactant | triethylamine | 3.56 mmol, 360 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (3S,4R)-1-(t-Butyldimethylsilyl)-3-(1-oxoethyl)-4-[2,2,2-tri(methylthio)ethyl]azetidin-2-one | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1CC(SC)(SC)SC)C(C)=O)=O | C16H31NO2S3Si
